US06545009B1
In the same manner as in Example 28, methyl 3-thiocarbamoylbenzoate was reacted with 3-trifluoromethoxyphenacyl bromide to obtain methyl 3-[4-(3-trifluoromethoxyphenyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 34%. Colorless prisms. Melting point: 84 to 85° C.

reactant | methyl 3-thiocarbamoylbenzoate | C(N)(=S)C=1C=C(C(=O)OC)C=CC1 | C9H9NO2S
reactant | 3-trifluoromethoxyphenacyl bromide | FC(OC=1C=C(C(CBr)=O)C=CC1)(F)F | C9H6BrF3O2
product | methyl 3-[4-(3-trifluoromethoxyphenyl)-2-thiazolyl]benzoate | Yield: 34% | FC(OC=1C=C(C=CC1)C=1N=C(SC1)C=1C=C(C(=O)OC)C=CC1)(F)F | C18H12F3NO3S
